US08404719B2
To ethyl 3-(chlorosulfonyl)benzoate (1 g, 4.02 mmol) in N,N-dimethylacetamide (13.4 mL) was added 2-fluoroaniline (1.551 mL, 16.08 mmol) dropwise over 1 minute at room temperature. The mixture was stirred at room temperature for 1 hour and then diluted with ethyl acetate (35 mL). The organic solution was washed with 1 N HCl (2×13 mL) and saturated NaCl (13 mL). The organic layer was concentrated, ethanol (38 mL) was added to the reside, and the mixture was concentrated to give ethyl 3-{[(2-fluorophenyl)amino]sulfonyl}benzoate.

reactant | ethyl 3-(chlorosulfonyl)benzoate | 4.02 mmol, 1 g | ClS(=O)(=O)C=1C=C(C(=O)OCC)C=CC1 | C9H9ClO4S
reactant | 2-fluoroaniline | 16.08 mmol, 1.551 mL | FC1=C(N)C=CC=C1 | C6H6FN
solvent | N,N-dimethylacetamide | 13.4 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 3-{[(2-fluorophenyl)amino]sulfonyl}benzoate | FC1=C(C=CC=C1)NS(=O)(=O)C=1C=C(C(=O)OCC)C=CC1 | C15H14FNO4S
